Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
pancolitis
 
Major Surgical or Invasive Procedure:
Flexible sigmoidoscopy with biopsy ___

 
History of Present Illness:
___ w/ no significant medical history presenting with 5 months.  
Then developed loose stools ~5 months
ago, gradually progressive over time, especially worse the last 
2 weeks.  Soft stool, watery, a bit foamy, recently some drops 
of blood, looks fresh, no maroon or melena.  Recently beginning 
to hurt just at the anal exit area.  Some sporadic abd cramping 
in LLQ, ___, but not really a pain per se.  Rare brief nausea, 
vomiting once two weeks ago, and today.  No fevers, sweats or 
chills.  Appetite is good, maybe some slight weight loss (pre 
157, now ___.  No dysuria or changes in urine.  No visual 
changes, rashes or joint problems.  Has skipped work because of 
his symptoms ___ times.  Is a dental resident at ___ 
___ (has DDM and doing specialty training in root 
canals).

Per ED note "Patient was seen at ___ on 
___, an reported several months of loose stools with shedding 
"like snake skin". Got labs, significant for elevated WBC to 
15.5. Therefore, decision made for CT a/p, showing pancolitis. 
Referred to ER for Urgent GI referral."

In the ED: febrile to 104.1, BCx had been sent, vancomycin was 
added, got IV APAP and IVF, WBC elevated ___

ROS: [x] As per above HPI, otherwise reviewed and negative in 
all systems

Primary Care Provider: ___, MD -- ___
 
Past Medical History:
none
Patient reported having had TB vaccine previously
 
Social History:
___
Family History:
No hx of bowel diseases or bleeding/clotting disorders 

 
Physical Exam:
Admission Physical Exam:
VS ___ 10:04am in ED: T 100.7, HR 110, BP 114/79, RR 18 , O2 
sat 99% RA
Lines/tubes: PIV
Gen: well appearing young man lying in ED bed, alert, 
cooperative, NAD
HEENT: anicteric, PERRL, MMM, no oral lesions noted
Neck: supple
Chest: equal chest rise, CTAB posteriorly, no WOB or cough
Cardiovasc: tachyc but regular, no m/r/g
Abd: soft, NTND
Rectal exam per ED: no fissues, no hemorrhoids, brown stool, 
guaiac positive
GU: no CVAT
Extr: WWP, no edema
Skin: no rashes noted
Neuro: CN II-XII intact (IX and X not specifically tested), 
strength ___ throughout, sensation to light touch intact 
throughout, reflexes symmetric
Psych: normal affect

Discharge Exam:
-Vitals: 98.3 PO 104/64 84 18 98 RA 
-General: NAD, walking around room
-Cardiovascular: RRR, no murmur 
-Pulmonary: clear b/l, no wheeze 
-GI: Soft, nontender, nondistended
-Neuro: grossly intact, no focal neurological deficits
-Psychiatric: appropriate mood and affect 
 
Pertinent Results:
ADMISSION LABS
___ 08:45PM   ___ PTT-33.3 ___
___ 08:45PM   PLT COUNT-443*
___ 08:45PM   NEUTS-76.5* LYMPHS-11.8* MONOS-9.6 EOS-1.1 
BASOS-0.4 IM ___ AbsNeut-13.76* AbsLymp-2.13 AbsMono-1.72* 
AbsEos-0.19 AbsBaso-0.08
___ 08:45PM   WBC-18.0* RBC-4.84 HGB-13.8 HCT-42.7 MCV-88 
MCH-28.5 MCHC-32.3 RDW-11.9 RDWSD-38.2
___ 08:45PM   CRP-100.9*
___ 08:45PM   ALBUMIN-4.0 CALCIUM-9.3 PHOSPHATE-3.5 
MAGNESIUM-2.2
___ 08:45PM   LIPASE-27
___ 08:45PM   ALT(SGPT)-16 AST(SGOT)-13 ALK PHOS-99 TOT 
BILI-0.5
___ 08:45PM   estGFR-Using this
___ 08:45PM   GLUCOSE-99 UREA N-8 CREAT-1.0 SODIUM-140 
POTASSIUM-3.3* CHLORIDE-98 TOTAL CO2-25 ANION GAP-17
___ 09:09PM   LACTATE-1.4
___ 01:05AM URINE  MUCOUS-OCC*
___ 01:05AM URINE  RBC-89* WBC-37* BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 01:05AM URINE  BLOOD-MOD* NITRITE-NEG PROTEIN-100* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-SM*
___ 01:05AM URINE  COLOR-Yellow APPEAR-Clear SP 
___
___ 01:05AM URINE  UHOLD-HOLD
___ 01:05AM URINE  HOURS-RANDOM
___ 05:40AM   PLT COUNT-354
___ 05:40AM   NEUTS-78.3* LYMPHS-9.9* MONOS-10.0 EOS-0.7* 
BASOS-0.4 IM ___ AbsNeut-12.56* AbsLymp-1.58 AbsMono-1.60* 
AbsEos-0.12 AbsBaso-0.07
___ 05:40AM   WBC-16.0* RBC-3.94* HGB-11.3* HCT-35.4* 
MCV-90 MCH-28.7 MCHC-31.9* RDW-11.8 RDWSD-38.9
___ 05:40AM   CALCIUM-8.2* PHOSPHATE-2.6* MAGNESIUM-1.9
___ 05:40AM   GLUCOSE-111* UREA N-6 CREAT-0.9 SODIUM-141 
POTASSIUM-4.6 CHLORIDE-104 TOTAL CO2-19* ANION GAP-18

INTERVAL LABS
___ 06:05AM BLOOD Phos-3.3 Mg-2.2 Iron-73
___ 06:05AM BLOOD calTIBC-196* Ferritn-327 TRF-151*
___ 08:50AM BLOOD HIV Ab-NEG
___ 07:11AM BLOOD tTG-IgA-4
___ 08:45PM BLOOD CRP-100.9*
___ 07:11AM BLOOD CRP-138.7*
___ 06:05AM BLOOD CRP-40.6*

DISCHARGE LABS 
***

PATHOLOGY
-Colonic biopsies, three:
1. (40 cm): Chronic severely active colitis with ulceration.
2. (25 cm): Chronic mildly active colitis.
3. (Rectum): Chronic moderately active colitis.
Note: No granuloma or dysplasia seen.

IMAGING
-Atrius CT A/P w/contrast ___ : Pancolitis with abnormal 
mural thickening and small lymph nodes in the colonic mesentery 
throughout. Abnormal striated appearance of the kidneys post 
contrast compatible with pyelonephritis.  This combination of 
these findings is unusual, and raises concern for a parasitic 
infection as could be seen in schistosomiasis. On further 
reading, another possibility in the differential diagnosis would 
be ulcerative colitis with associated IgG4 related renal 
disease.

STUDIES
-Flexible sigmoidoscopy ___: erythema, congestion, 
friability w/ contact bleeding and scattered erosions from 
rectum to visualized mucosa at 45cm in the colon (biopsy).  
Ulcers in the sigmoid colon.  4mm erythematous area with slight 
oozing was noted in the rectum next to the anal canal suggestive 
of enema trauma.
 
Brief Hospital Course:
___ w/ no significant medical history presents with 5 months of 
loose stool found to have pancolitis. 

1. Pancolitis
-Broad differential including infectious (including parasitic) 
vs inflammatory. Flex sigmoidoscopy ___ positive for chronic 
colitis. CRP peaked at 138 now down-trending to 40 with 
antibiotics, which could suggest IBD with supra infection 
(bacterial).  ID recommends treatment with antibiotics for ___ 
days, GI recommended for total 14 days of antibiotic therapy. 
Patient has been treated with IV ceftriaxone and metronidazole, 
and will be discharged on ciprofloxacin and metronidazole. 
Extensive infectious labs were sent and negative with the 
following pending at discharge: 
___ 06:42    Thiopurine Methyltransferase (TPMT), 
Erythrocytes PND 
___ 06:05    QuantiFERON-TB Gold PND 
___ 06:05    IgG Subclasses 1,2,3,4 PND 
___ 07:11    Strongyloides Antibody,IgG PND 
___ 08:50    Schistosoma Antibodies (see report) 
and BLOOD CULTURES X2
I have had discussion with GI today who also recommended for 
Lialda 2.4gm daily and budesonide 9mg daily, with close 
outpatient follow up with ID and GI.

2. b/l renal inflammation (hematuria, proteinuria)
-UA w/ blood, protein, and WBCs with negative urine culture. CT 
with possibly b/l hydronephrosis vs parasitic infection.  As per 
radiology differential also includes ulcerative colitis or IgG4 
related disease.  Continue to monitor outpatient. 

3. SIRS (tachycardia and fever)
-Concern for infectious vs inflammatory/reactive process.  
Vitals improved with IV fluids and antibiotics. 

4. Coagulopathy, elevated INR
-Differential of elevated ___ w/ normal PTT includes vimtain 
K deficiency, Factor VII deficiency, and potentially 
anti-phospholipid lipid antibody syndrome. INR did not improve 
with PO vitamin K and without history of bleeding/clots the 
other etiologies seem less likely.  If it remains elevated 
recommend outpatient monitoring/follow up. 

5. Normocytic anemia
-Unknown baseline due to paucity of labs.  Unclear if anemia is 
from bleeding or other process.  Iron studies and peripheral 
smear ***. Continue to monitor outpatient. 

6. Leukocytosis
-Suspect this is in setting of acute illness (colitis).  
Although CRP improved with antibiotics his leukocytosis has not. 
Continue to monitor outpatient. 

7. Thrombocytosis 
-Suspect this is reactive.  Continue to monitor outpatient. 

CHRONIC MEDICAL PROBLEMS
1. Tobacco abuse

>30 minutes spent on discharge planning 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ibuprofen 400 mg PO Q8H:PRN Headache 

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever  
2.  Budesonide 9 mg PO DAILY 
RX *budesonide [Uceris] 9 mg 9 MG by mouth DAILY Disp #*30 
Tablet Refills:*0 
3.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 17 Doses 
THROUGH ___ 
RX *ciprofloxacin HCl 500 mg 500 MG by mouth every twelve (12) 
hours Disp #*17 Tablet Refills:*0 
4.  Lialda (mesalamine) 2.4 GM oral DAILY 
RX *mesalamine [Lialda] 1.2 gram 2 tablet(s) by mouth DAILY Disp 
#*60 Tablet Refills:*0 
5.  MetroNIDAZOLE 500 mg PO TID 
THROUGH ___ 
RX *metronidazole 500 mg 500 MG by mouth three times a day Disp 
#*25 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Colitis 
SIRS/Sepsis 
Anemia, Leukocytosis, Thrombocytosis
Elevated INR 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted with diarrhea found to have colitis.  You had 
a procedure called a flexible sigmoidoscopy with biopsy that 
confirmed chronic colitis.  You were started on antibiotics with 
improvement in your symptoms.  

You were seen by the infectious disease and gastroenterology 
team to assist in diagnosis.  Your overall presentation is 
concerning for inflammatory bowel disease with a bacterial 
infection on top of it.  You were treated with suspected IBD.

You were found to have some abnormalities with your blood counts 
(elevated INR and anemia).  You should follow up with your PCP 
for continued monitoring to determine if further workup is 
needed once this acute resolves. 

It was a pleasure taking care of you.
-Your ___ team 
 
Followup Instructions:
___